US05519048
Combine diethyl phenylsulphonylmethylphosphonate (T. A. Blumenkopf Synth. Commun. 26, 139-147, (1986)) (117.0 g, 400 mmol) and tetrahydrofuran (500 mL). Cool in an ice-bath. Add lithium bis(trimethylsilyl)amide (480 mL, 1M in tetrahydrofuran, 480 mmol). Stir for 30 minutes after the addition of lithium bis(trimethylsilyl)amide, then add methyl benzoylformate (72.0 g, 439 mmol). Warm to ambient temperature and stir for 2 hours. Partition between water and ethyl acetate. Extract the aqueous layer with ethyl acetate. Combine the organic layers, dry over magnesium sulfate and evaporate in vacuo to give an oil. Triturate with cyclohexane to give a solid. Chromatograph the solid on silica gel eluting sequentially with 10% ethyl acetate/hexane, 15% ethyl acetate/hexane, and 33% ethyl acetate/hexane. Evaporation of the product containing fractions give a solid. Recrystallize form ethyl acetate/hexane to give 2-phenyl-3-sulfonylphenyl-propenoic acid, methyl ester as a solid. Elem. Anal calculated for C16H14O4S: C, 63.56; H, 4.67. Found: C, 63.25; H, 4.70.

reactant | diethyl phenylsulphonylmethylphosphonate | C1(=CC=CC=C1)S(=O)(=O)CP(OCC)(OCC)=O | C11H17O5PS
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 480 mmol, 1M, 480 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl benzoylformate | 439 mmol, 72.0 g | C(C1=CC=CC=C1)(=O)C(=O)OC | C9H8O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-phenyl-3-sulfonylphenyl-propenoic acid, methyl ester | C1(=CC=CC=C1)C1C(=CC=CC1=S(=O)=O)C(C(=O)OC)=C | C16H14O4S
